US08729078B2
Water (5 mL) was added to a solution of 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid methyl ester (150 mg, 0.337 mmol) in dioxane (5 mL). The mixture was stirred for 5 min and NaOH (40 mg) was added. The reaction mixture was stirred at room temperature for 16 h. The mixture was concentrated under reduced pressure. The residue was extracted with diethyl ether (5 mL×3). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure to give 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid (113 mg, yield 78%) as a yellow solid. LC-MS calcd for C25H25N3O4 (m/e) 431.18, obsd 885 [2M+23]+.

reactant | Water | 5 mL | O | H2O
reactant | 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid methyl ester | 0.337 mmol, 150 mg | COC(=O)C=1N(C(=CC1)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)CO)C | C26H27N3O4
reactant | NaOH | 40 mg | [OH-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid | 113 mg, yield 78% | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)C1=CC=C(N1C)C(=O)O)CO | C25H25N3O4
